US07169789B2
N-(2-Chloro-4-{[6-methoxy-7-(2-morpholinoethoxy)-4-quinolyl]oxy}phenyl)-N′-(2,4-difluorophenyl)urea
N-{2-Chloro-4-[(7-hydroxy-6-methoxy-4-quinolyl)-oxy]phenyl}-N′-(2,4-difluorophenyl)urea (174 mg) was dissolved in N,N-dimethylformamide (9 ml), and potassium carbonate (64 mg), tetra-n-butylammonium iodide (14 mg), and N-(2-chloroethyl)morpholine hydrochloride (86 mg) were then added to the solution. The mixture was stirred at 70° C. for 17 hr, and a saturated aqueous sodium hydrogencarbonate solution was then added to the reaction solution, followed by extraction with chloroform. The chloroform layer was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by chromatography on silica gel by development with chloroform/methanol (20/1) to give 75 mg (yield 35%) of the title compound.

reactant | N-{2-Chloro-4-[(7-hydroxy-6-methoxy-4-quinolyl)-oxy]phenyl}-N′-(2,4-difluorophenyl)urea | 174 mg | ClC1=C(C=CC(=C1)OC1=CC=NC2=CC(=C(C=C12)OC)O)NC(=O)NC1=C(C=C(C=C1)F)F | C23H16ClF2N3O4
reactant | potassium carbonate | 64 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-(2-chloroethyl)morpholine hydrochloride | 86 mg | Cl.ClCCN1CCOCC1
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 9 ml | CN(C=O)C | C3H7NO
catalyst | tetra-n-butylammonium iodide | 14 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | N-(2-Chloro-4-{[6-methoxy-7-(2-morpholinoethoxy)-4-quinolyl]oxy}phenyl)-N′-(2,4-difluorophenyl)urea | 75 mg, yield 35% | ClC1=C(C=CC(=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OCCN1CCOCC1)NC(=O)NC1=C(C=C(C=C1)F)F | C29H27ClF2N4O5
